US04963590
4,5-Dihydroxyisophtalaldehyde
To a suspension containing 1.8 g of 4-hydroxy-5-methoxyisophtalaldehyde in 20 ml of dichloromethane was added 35 ml of 1 molar PBr3 in dichloromethane. The mixture was allowed to stand over night at room temperature and poured the to ice-water. Dichloromethane was evaporated in vacuo. After cooling the product was filtered and washed with water. Yield 0.94 g (57%), m.p. 192°-195° C.

reactant | 4-hydroxy-5-methoxyisophtalaldehyde | 1.8 g | OC1=C(C=C(C=O)C=C1OC)C=O | C9H8O4
reactant | PBr3 | 1 molar, 35 ml | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4,5-Dihydroxyisophtalaldehyde | OC1=C(C=C(C=O)C=C1O)C=O | C8H6O4
